### ISSUE TITLE
Gallery integrity: erdos-548 has INCONSISTENT axioms (path_extremal vs turan_path_formula derive False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#40912]
## Integrity Issue — CRITICAL (inconsistent axiom set)

**Proof**: erdos-548 (Erdős-Sós Conjecture)
**File**: `proofs/Proofs/Erdos548Problem.lean`
**Problem**: Two axioms assign **different closed-form values to the same Lean term**, so the trusted axiom set is inconsistent and the Lean kernel can derive `False`. This silently invalidates every theorem in the file (and any dependents), regardless of the honest `axiom`/`open` badge.

## The two conflicting axioms

```lean
-- line 244
axiom path_extremal (n k : ℕ) (hn : n ≥ k + 1) (hk : k ≥ 2) :
    extremalNumber n (pathGraph (k + 1)) = (k - 1) * n / 2

-- line 285-289
noncomputable def turanPath (n k : ℕ) : ℕ := extremalNumber n (pathGraph k)
axiom turan_path_formula (n k : ℕ) (hn : n ≥ k - 1) (hk : k ≥ 2) :
    turanPath n k = (k - 2) * (n - 1) / 2
```

`turanPath n k` is definitionally `extremalNumber n (pathGraph k)`, so both axioms constrain the identical term `extremalNumber n (pathGraph m)`:
- via `path_extremal` (k = m-1):  `(m-2) * n / 2`
- via `turan_path_formula` (k = m): `(m-2) * (n-1) / 2`

These disagree whenever `(m-2) > 0` and `n/2 ≠ (n-1)/2`.

## Concrete derivation of False (m = 3, n = 4)

```lean
example : False := by
  have h1 : extremalNumber 4 (pathGraph 3) = 2 :=
    path_extremal 4 2 (by norm_num) (by norm_num)   -- (2-1)*4/2 = 2
  have h2 : turanPath 4 3 = 1 :=
    turan_path_formula 4 3 (by norm_num) (by norm_num)  -- (3-2)*(4-1)/2 = 1
  -- turanPath 4 3 = extremalNumber 4 (pathGraph 3) definitionally
  simp only [turanPath] at h2
  omega  -- from h1 (=2) and h2 (=1): 2 = 1
```

All side conditions hold: for `path_extremal 4 2` need `4 ≥ 3` and `2 ≥ 2`; for `turan_path_formula 4 3` need `4 ≥ 2` and `3 ≥ 2`. `pathGraph (2+1)` and `pathGraph 3` are the same term (`2+1` reduces to `3`).

## Recommended fix

`turan_path_formula` is the incorrect one. The standard Erdős–Gallai extremal number for the path `P_k` (k vertices) is `⌊(k-2)n/2⌋` (achieved by disjoint `K_{k-1}` cliques), which is exactly what `path_extremal` encodes (`(k-1)n/2` for `P_{k+1}`). Change the RHS to drop the spurious `-1`:

```lean
axiom turan_path_formula (n k : ℕ) (hn : n ≥ k - 1) (hk : k ≥ 2) :
    turanPath n k = (k - 2) * n / 2
```

This makes the two axioms agree (`(k-2)*n/2` at `pathGraph k`) and matches the standard formula. Neither axiom is referenced elsewhere in the file, so the change is build-safe.

---
Discovered during gallery integrity audit (reserve mode). Same class as #40826 / #40899 / #40895 (mutually-inconsistent bound axioms — instantiate at values that expose the disagreement).
